US04888439
N-(2,6,10-trimethyl-14-oxo-2,6,10-pentadecatrienoyl)diethanolamine
Starting materials: 2,6,10-trimethyl-14-oxo-2,6,10-pentadecatrienoic acid and diethanolamine.

reactant | 2,6,10-trimethyl-14-oxo-2,6,10-pentadecatrienoic acid | CC(C(=O)O)=CCCC(=CCCC(=CCCC(C)=O)C)C | C18H28O3
reactant | diethanolamine | N(CCO)CCO | C4H11NO2
product | N-(2,6,10-trimethyl-14-oxo-2,6,10-pentadecatrienoyl)diethanolamine | CC(C(=O)N(CCO)CCO)=CCCC(=CCCC(=CCCC(C)=O)C)C | C22H37NO4
